US04889857
By the use of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 3-(methylaminomethyl)morpholine, the reaction is similarly carried out as Example 1 to give 1-ethyl-6,8-difluoro-1,4-dihydro-7-[3-(methylaminomethyl)morpholino]-4-oxoquinoline-3-carboxylic acid.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 3-(methylaminomethyl)morpholine | CNCC1NCCOC1 | C6H14N2O
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-[3-(methylaminomethyl)morpholino]-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1C(COCC1)CNC)F)=O)C(=O)O | C18H21F2N3O4
